US05703109
3-(4-cyanophenyl)-1-(4-fluorophenyl)prop-2-en-1-one is prepared according to the procedure described in Example 4a using 4-cyanobenzaldehyde and 4-fluoroacetophenone as starting materials.

reactant | 4-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 4-fluoroacetophenone | CC(=O)C1=CC=C(C=C1)F | C8H7FO
product | 3-(4-cyanophenyl)-1-(4-fluorophenyl)prop-2-en-1-one | C(#N)C1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)F | C16H10FNO
